US05202225
Sesamol (42.7 grams) was dissolved in 300 ml of DMF, 100 grams of 2-bromolauric acid ethyl ester was added and the mixture was stirred. Potassium carbonate (50 grams) was added and the mixture was reacted at 80° C. for 10 hours. The end of the reaction was verified using TLC, after which 1 liter of water and 500 ml of ethyl acetate were added and the mixture was extracted. The organic layer was washed twice with water and then dried over magnesium sulfate and, on removing the solvent by distillation, 90 grams of 2-(3,4-methylenedioxy-phenoxy)lauric acid ethyl ester was obtained as an oily material for a yield of 79.9%.

reactant | Sesamol | 42.7 grams | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | 2-bromolauric acid ethyl ester | 100 grams | C(C)OC(C(CCCCCCCCCC)Br)=O | C14H27BrO2
reactant | Potassium carbonate | 50 grams | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 liter | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3,4-methylenedioxy-phenoxy)lauric acid ethyl ester | 90 grams, yield of 79.9% | C(C)OC(C(CCCCCCCCCC)OC1=CC2=C(C=C1)OCO2)=O | C21H32O5
